US06579872B1
N-[5-(3-dimethylaminobenzamido)-2-methylphenyl]-3-{3-[N-(3-dimethylaminopropyl)-N-methylamino]-2-hydroxypropoxy}benzamide
Using an analogous procedure to that described in Example 31, N-[5-(3-dimethylaminobenzamido)-2-methylphenyl]-3-(2,3-epoxypropoxy)benzamide was reacted with N-(3-dimethylaminopropyl)-N-methylamine to give the title compound in 45% yield; NMR Spectrum: (DMSOd6) 1.8 (m, 2H), 2.18 (s, 3H), 2.33 (s, 3H), 2.58 (s, 6H), 2.6 (m, 2H), 2.92 (t, 2H), 2.96 (s, 6H), 4.03 (m, 5H), 6.9 (m, 1H), 7.15 (m, 1H), 7.2 (m, 3H), 7.28 (t, 1H), 7.48 (t, 1H), 7.56 (m, 2H), 7.8 (d, 1H), 9.95 (s, 1H), 10.13 (s, 1H); Mass Spectrum: M+H+ 562.

reactant | N-[5-(3-dimethylaminobenzamido)-2-methylphenyl]-3-(2,3-epoxypropoxy)benzamide | CN(C=1C=C(C(=O)NC=2C=CC(=C(C2)NC(C2=CC(=CC=C2)OCC2CO2)=O)C)C=CC1)C | C26H27N3O4
reactant | N-(3-dimethylaminopropyl)-N-methylamine | CN(CCCNC)C | C6H16N2
product | N-[5-(3-dimethylaminobenzamido)-2-methylphenyl]-3-{3-[N-(3-dimethylaminopropyl)-N-methylamino]-2-hydroxypropoxy}benzamide | 45% yield | CN(C=1C=C(C(=O)NC=2C=CC(=C(C2)NC(C2=CC(=CC=C2)OCC(CN(C)CCCN(C)C)O)=O)C)C=CC1)C | C32H43N5O4
